US08222416B2
A solution of 1-(3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone (0.85 g, 2.8 mmol) in methanol (20 mL) and tetrahydrofuran (30 mL) was treated with 10% palladium on carbon (300 mg). The reaction was stirred for 16 h at 25° C. under hydrogen atmosphere. At this time, the reaction mixture was filtered. The filtrate was concentrated in vacuo. Silica gel column chromatography (20 g, 200-300 mesh, 10% ethyl acetate/petroleum ether) afforded 1-{3-[3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-butyl]-phenyl}-ethanone (0.50 g, 58.3%) as an off-white solid: 1H NMR (300 MHz, d6-DMSO) δ ppm 11.63 (s, 1H), 8.09 (d, 1H, J=3.6 Hz), 7.96 (s, 1H), 7.81 (d, 2H, J=7.5 Hz), 7.66 (d, 1H, J=7.5 Hz), 7.46 (t, 1H, J=7.5 Hz), 6.98 (dd, 1H, J1=4.5 Hz, J2=8.1 Hz), 6.31 (s, 1H), 4.30 (t, 1H, J=8.1 Hz), 2.57 (s, 3H), 2.17-2.10 (m, 1H), 1.91-1.86 (m, 1H), 1.41-1.39 (m, 1H), 0.92 (s, 3H), 0.90 (s, 3H).

reactant | 1-(3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone | 2.8 mmol, 0.85 g | CC(C=C(C1=CC=2C(=NC=CC2)N1)C=1C=C(C=CC1)C(C)=O)C | C20H20N2O
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 1-{3-[3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-butyl]-phenyl}-ethanone | 0.50 g, 58.3% | CC(CC(C1=CC=2C(=NC=CC2)N1)C=1C=C(C=CC1)C(C)=O)C | C20H22N2O
